US07109219B2
tert-Butyl thiomorpholine-4-carboxylate
Thiomorpholine (5.0 ml, 53 mol) was dissolved in tetrahydrofuran (200 ml); triethylamine (8.1 ml, 58 ml) was added thereto; and the reaction mixture was stirred at room temperature. tert-Butoxycarbonyl dicarbonate (13.3 ml, 58 mmol) was added thereto and the reaction mixture was stirred at room temperature for 10 hours. The reaction mixture was concentrated under reduced pressure; and the residue was purified by silica gel column (eluent; hexane:ethyl acetate=from 80:20, 75:25 to 70:30) to yield the title compound as colorless crystals (10.4 g, 51 mmol).

reactant | Thiomorpholine | 53 mol, 5.0 ml | N1CCSCC1 | C4H9NS
reactant | triethylamine | 8.1 ml | C(C)N(CC)CC | C6H15N
reactant | tert-Butoxycarbonyl dicarbonate | 58 mmol, 13.3 ml | C(=O)(OC(=O)OC(C)(C)C)OC(=O)[O-]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | tert-Butyl thiomorpholine-4-carboxylate | 51 mmol, 10.4 g | N1(CCSCC1)C(=O)OC(C)(C)C | C9H17NO2S
